US04730005
(a) 2-(2-Dodecylphenyl)-4,4-dimethyloxazoline
To freshly prepared dodecylmagnesium bromide (from 30.13 mmoles of dodecyl bromide and 26.20 mmoles of magnesium) in distilled tetrahydrofuran (50 ml) was added 2-(2-methoxyphenyl)-4,4-dimethyloxazoline [A. I. Meyers et al., J. Org. Chem., 43, 1372 (1978)] (17.88 mmoles) in tetrahydrofuran (30 ml). The resultant yellow solution was stirred under argon at ambient temperature for 20 hours. The solution was cooled in an ice water bath and quenched with aqueous ammonium chloride (100 ml). The reaction product was extracted into diethyl ether (100 ml) and the organic phase was washed with saturated sodium chloride solution (50 ml) and then dried over anhydrous magnesium sulfate. Evaporation of the organic phase afforded a colorless oil which was purified by flash chromatography over silica gel with 5 percent ethyl acetate in hexane as eluant to afford the desired product as a pale yellow oil.

reactant | dodecylmagnesium bromide | 30.13 mmoles | C(CCCCCCCCCCC)[Mg]Br
reactant | 2-(2-methoxyphenyl)-4,4-dimethyloxazoline | COC1=C(C=CC=C1)C=1OCC(N1)(C)C | C12H15NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(2-Dodecylphenyl)-4,4-dimethyloxazoline | C(CCCCCCCCCCC)C1=C(C=CC=C1)C=1OCC(N1)(C)C | C23H37NO
